US04729994
To a solution of 15.0 g (0.074 mole) 1,2-dichloro-3-(2-methoxyethenyl)benzene in 150 ml of THF was added 15 ml of 35% perchloric acid in water. The reaction was refluxed for 3.5 hr then poured into ice/water. The aqueous layer was extracted two times with ether, the organics were washed with water, brine and dried (MgSO4). Evaporation of the solvent gave 13.91 g of crude 2,3-dichlorobenzeneacetaldehyde a yellow oil (99%).

reactant | 1,2-dichloro-3-(2-methoxyethenyl)benzene | 0.074 mole, 15.0 g | ClC1=C(C(=CC=C1)C=COC)Cl | C9H8Cl2O
reactant | perchloric acid | 15 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2,3-dichlorobenzeneacetaldehyde | 13.91 g | ClC1=C(C=CC=C1Cl)CC=O | C8H6Cl2O
